US09193722B2
(2R)-3-methyl-2-(piperazin-2-yl)butan-2-ol
Platinum oxide (4.673 g, 20.58 mmol) was placed in a Parr bottle. Methanol (140 mL) was added under an atmosphere of nitrogen followed by (R)-(+)-3-methyl-2-(pyrazin-2-yl)butan-2-ol (17.1 g, 102.9 mmol). The reaction mixture was shaken in a PARR hydrogenator overnight with a hydrogen pressure of 60 psi. Lc/Ms after this time indicate that the reaction was complete. The suspension was filtered through a pad of celite under a nitrogen atmosphere, rinsing with methanol. The crude mixture was concentrated in vacuo. The residue was re-dissolved in dichloromethane, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as viscous light yellow oil (16.6 g, 93%); 1H NMR (CDCl3) 0.82-1.08 (9H, m), 1.81 (1H, m), 2.20-3.17 (10H, m); MS ES(+) 173.0 (M+1).

reactant | (R)-(+)-3-methyl-2-(pyrazin-2-yl)butan-2-ol | 102.9 mmol, 17.1 g | CC([C@@](C)(O)C1=NC=CN=C1)C | C9H14N2O
reactant | hydrogen | [H][H] | H2
catalyst | Platinum oxide | 20.58 mmol, 4.673 g | [Pt]=O
solvent | Methanol | 140 mL | CO | CH4O
product | (2R)-3-methyl-2-(piperazin-2-yl)butan-2-ol | 16.6 g, 93% | CC([C@@](C)(O)C1NCCNC1)C | C9H20N2O
